US06482824B1
A solution of 2-t-butyloxycarbonyl-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine (2.02 g, 5.78 mmol) in methanol (10 ml) saturated with hydrogen chloride gas was stirred at room temperature for 2 h. The solvent was evaporated and the residue crystallised from methanol-diethyl ether to give 3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine hydrochloride as a crystalline product.

reactant | 2-t-butyloxycarbonyl-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine | 5.78 mmol, 2.02 g | C(C)(C)(C)OC(=O)N1OC(C(=CC1CO)C)C1=CC=C(C=C1)OCC | C19H27NO5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine hydrochloride | Cl.C(C)OC1=CC=C(C=C1)C1C(=CC(NO1)CO)C | InChI=1S/C14H19NO3.ClH/c1-3-17-13-6-4-11(5-7-13)14-10(2)8-12(9-16)15-18-14;/h4-8,12,14-16H,3,9H2,1-2H3;1H
